US04868177
1-(4-Methyl-1-piperazinyl)-1,2,3,4-tetrahydro-9-acridinamine
9-Amino-1,2,3,4-tetrahydroacridin-1-ol (5.36 g) was refluxed for 48 h in 300 ml of toluene that contained 1-methylpiperazine (5.06 g) and p-toluenesulfonic acid monohydrate (9.5 g). At the end of this time the reaction mixture was distributed between EtOAc and aqueous K2CO3 and then the combined organic phase was concentrated and the residue purified by flash chromatography (5% Et3N/EtOAc) to give, after concentration of the product-containing fractions and recrystallization from EtOAc, 2.30 g of analytically pure product, m.p. 200°-202°.

reactant | 9-Amino-1,2,3,4-tetrahydroacridin-1-ol | 5.36 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)O | C13H14N2O
reactant | 1-methylpiperazine | 5.06 g | CN1CCNCC1 | C5H12N2
reactant | p-toluenesulfonic acid monohydrate | 9.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(4-Methyl-1-piperazinyl)-1,2,3,4-tetrahydro-9-acridinamine | CN1CCN(CC1)C1CCCC2=NC3=CC=CC=C3C(=C12)N | C18H24N4
